US06498169B1
Synthesis of 2-(4-Chloro-3,5-dimethoxyphenyl)-4-hydroxymethylpyridine
To an ice-cooled solution of 2-(4-chloro-3,5-dimethoxyphenyl)isonicotinic acid (7.20 g) and triethylamine (5.6 mL) in THF (70 mL) was added ethyl chloroformate (2.8 mL). The mixture was stirred at room temperature for 1 hour and filtered. To the filtrate was then added a solution of sodium borohydride (1.25 g) in water (4 mL). The mixture was stirred at room temperature for another hour and evaporated. Water was added to the residue and extracted with chloroform. The organic layer was washed with brine, dried over anhydrous sodium sulfate and evaporated. The residue was subjected to silica gel column chromatography using chloroform-methanol (20:1) and then chloroform-methanol (15:1) to give the title compound.

reactant | 2-(4-chloro-3,5-dimethoxyphenyl)isonicotinic acid | 7.20 g | ClC1=C(C=C(C=C1OC)C=1C=C(C(=O)O)C=CN1)OC | C14H12ClNO4
reactant | triethylamine | 5.6 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 2.8 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-3,5-dimethoxyphenyl)-4-hydroxymethylpyridine | ClC1=C(C=C(C=C1OC)C1=NC=CC(=C1)CO)OC | C14H14ClNO3
